US09193741B2
Synthesis of 7-(piperazin-1-yl)-2-p-tolylthiazolo[5,4-d]pyrimidin-5-amine
This compound was synthesized from tert-butyl 4-(2,5-diamino-6-mercaptopyrimidin-4-yl)piperazine-1-carboxylate using p-toluoyl chloride, yielding the title compound in 80% yield.

reactant | tert-butyl 4-(2,5-diamino-6-mercaptopyrimidin-4-yl)piperazine-1-carboxylate | NC1=NC(=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)N)S | C13H22N6O2S
reactant | p-toluoyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
product | 7-(piperazin-1-yl)-2-p-tolylthiazolo[5,4-d]pyrimidin-5-amine | 80% yield | N1(CCNCC1)C=1C2=C(N=C(N1)N)SC(=N2)C2=CC=C(C=C2)C | C16H18N6S
